datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1cc(C(N)=O)ccc1-c1nc2c(ncn2C)[n-:10]1.Cc1nc2ncncc2[n:21]1[H:20]>>COc1cc(C(N)=O)ccc1-c1nc2c(ncn2C)[n:10]1[H:20].Cc1nc2ncncc2[n-:21]1 10=20;20,21=21",
"CCCOc1ccc(C(=O)[O-:10])cc1.Cc1ccccc1C(=O)[O:21][H:20]>>CCCOc1ccc(C(=O)[O:10][H:20])cc1.Cc1ccccc1C(=O)[O-:21] 10=20;20,21=21",
"Brc1cccc2ccc([O-:10])cc12.CCCCCC(C)[NH+:21](C)[H:20]>>Brc1cccc2ccc([O:10][H:20])cc12.CCCCCC(C)[NH:21]C 10=20;20,21=21",
"CCCCCCC[NH+:21](Cc1ccc(C)cc1)[H:20].CN(C)c1ccc[n:10]c1>>CCCCCCC[NH:21]Cc1ccc(C)cc1.CN(C)c1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"Cc1ccnc(NS(=O)(=O)c2ccc([NH2:10])cc2)n1.[NH3+]CCC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20]>>Cc1ccnc(NS(=O)(=O)c2ccc([NH2+:10][H:20])cc2)n1.[NH3+]CCC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O-:21] 10=20;20,21=21",
"Cc1nc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])no1.Cn1nc([N+](=O)[O-])nc1[N-:10]N=O>>Cc1nc([N-:21]S(=O)(=O)c2ccc(N)cc2)no1.Cn1nc([N+](=O)[O-])nc1[N:10](N=O)[H:20] 10=20;20,21=21",
"N#CC(C(=O)[O-:10])C1CCCCC1.O=S(=O)([O-])CCC[N+:21]1([H:20])CCOCC1>>N#CC(C(=O)[O:10][H:20])C1CCCCC1.O=S(=O)([O-])CCC[N:21]1CCOCC1 10=20;20,21=21",
"CCO[Si](C)(C[NH2:10])OCC.Cc1cc(N)c2ccccc2[n+:21]1[H:20]>>CCO[Si](C)(C[NH2+:10][H:20])OCC.Cc1cc(N)c2ccccc2[n:21]1 10=20;20,21=21",
"CC(C)[NH:10]CCN.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)[NH+:10](CCN)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"O=C([O-])[C@@H]1O[C@H](Oc2cc3ccccc3[n:10]c2)[C@@H](O)[C@H](O)[C@H]1O.O=[N+]([O-])c1ccc([NH2+:21][H:20])cc1F>>O=C([O-])[C@@H]1O[C@H](Oc2cc3ccccc3[n+:10]([H:20])c2)[C@@H](O)[C@H](O)[C@H]1O.O=[N+]([O-])c1ccc([NH2:21])cc1F 10=20;20,21=21",
"C[NH2+]CC(=O)NCCc1c[nH]c[n:10]1.[NH3+]C1CC[N+:21](Cc2ccccc2)([H:20])CC1>>C[NH2+]CC(=O)NCCc1c[nH]c[n+:10]1[H:20].[NH3+]C1CC[N:21](Cc2ccccc2)CC1 10=20;20,21=21",
"CN(CC[NH+](C)C)c1cc[n+:21]([H:20])c2cccc([N+](=O)[O-])c12.Cc1cnc2c(ccc3c(C)c(C)c[n:10]c32)c1C>>CN(CC[NH+](C)C)c1cc[n:21]c2cccc([N+](=O)[O-])c12.Cc1cnc2c(ccc3c(C)c(C)c[n+:10]([H:20])c32)c1C 10=20;20,21=21",
"C#CC#CC#CCC(O)CCC(=O)[O-:10].Nc1c2ccccc2[n+:21]([H:20])c2c(N)cccc12>>C#CC#CC#CCC(O)CCC(=O)[O:10][H:20].Nc1c2ccccc2[n:21]c2c(N)cccc12 10=20;20,21=21",
"O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2:10].c1cc[n+:21]([H:20])c(-c2ccn[nH]2)c1>>O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2+:10][H:20].c1cc[n:21]c(-c2ccn[nH]2)c1 10=20;20,21=21",
"CC[NH+](CC)CCOc1ccccc1C(=O)N[O:21][H:20].O=C1CC(c2ccccc2)NC(=O)[N-:10]1>>CC[NH+](CC)CCOc1ccccc1C(=O)N[O-:21].O=C1CC(c2ccccc2)NC(=O)[N:10]1[H:20] 10=20;20,21=21",
"CC(=O)N1CCCC1C(=O)[O:21][H:20].CN1C([O-])=NC(=O)c2c1nc[n-:10]2>>CC(=O)N1CCCC1C(=O)[O-:21].CN1C([O-])=NC(=O)c2c1nc[n:10]2[H:20] 10=20;20,21=21",
"CCCCNCC[NH:10]CCCC.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCNCC[NH+:10](CCCC)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCNc1sc(-c2ccccc2)n[n+:21]1[H:20].N#CC1=C(c2nc3cc(Cl)ccc3o2)C(=O)Oc2cc([O-:10])ccc21>>CCNc1sc(-c2ccccc2)n[n:21]1.N#CC1=C(c2nc3cc(Cl)ccc3o2)C(=O)Oc2cc([O:10][H:20])ccc21 10=20;20,21=21",
"COc1ccc(/C=N/[O-:10])cc1.OB(Cc1ccccc1)[O:21][H:20]>>COc1ccc(/C=N/[O:10][H:20])cc1.OB(Cc1ccccc1)[O-:21] 10=20;20,21=21",
"CN(C)c1ccc2cc3ccc([N:10](C)C)cc3[nH+]c2c1.O=C([C@@H]1C[C@@H]1Br)[O:21][H:20]>>CN(C)c1ccc2cc3ccc([N+:10](C)(C)[H:20])cc3[nH+]c2c1.O=C([C@@H]1C[C@@H]1Br)[O-:21] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cc(N)cnc2[n+:21]1[H:20].COc1ccccc1-c1nnn[n-:10]1>>COc1cc(S(C)=O)ccc1-c1[nH]c2cc(N)cnc2[n:21]1.COc1ccccc1-c1nnn[n:10]1[H:20] 10=20;20,21=21",
"CCCCCC(C)(C)[NH2+:21][H:20].Cc1ccccc1C(c1ccccc1C)=[N:10]CCCC[NH+](C)C>>CCCCCC(C)(C)[NH2:21].Cc1ccccc1C(c1ccccc1C)=[N+:10](CCCC[NH+](C)C)[H:20] 10=20;20,21=21",
"CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N:10]1CCOCC1.Cc1cc(O)n(-c2ccccc2)[n+:21]1[H:20]>>CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N+:10]1([H:20])CCOCC1.Cc1cc(O)n(-c2ccccc2)[n:21]1 10=20;20,21=21",
"CC(=C(C#N)C#N)[O:21][H:20].COc1ccccc1/C=C\C(=O)[O-:10]>>CC(=C(C#N)C#N)[O-:21].COc1ccccc1/C=C\C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)C1=CC2=CC[C@H]3[C@@](C)(CCC[C@]3(C)C(=O)[O:21][H:20])[C@@H]2CC1.Cc1cc(N[NH3+])[n:10]c2ccccc12>>CC(C)C1=CC2=CC[C@H]3[C@@](C)(CCC[C@]3(C)C(=O)[O-:21])[C@@H]2CC1.Cc1cc(N[NH3+])[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N:21](CC[NH+](CC(=O)[O-])CC(=O)[O-])[H:20])cc1.Cc1cccc([O-:10])c1C(=O)Oc1ccccc1>>Cc1ccc(S(=O)(=O)[N-:21]CC[NH+](CC(=O)[O-])CC(=O)[O-])cc1.Cc1cccc([O:10][H:20])c1C(=O)Oc1ccccc1 10=20;20,21=21",
"C[N:10]1CC[C@]23c4c5ccc(O[C@@H]6O[C@H](C(=O)[O-])[C@@H](O)[C@H](O)[C@H]6O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.Oc1onc2c1CC[N+:21](Cc1ccccc1)([H:20])CC2>>C[N+:10]1([H:20])CC[C@]23c4c5ccc(O[C@@H]6O[C@H](C(=O)[O-])[C@@H](O)[C@H](O)[C@H]6O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.Oc1onc2c1CC[N:21](Cc1ccccc1)CC2 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NC(=S)C1([NH2:10])CCCCC1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NC(=S)C1([NH2+:10][H:20])CCCCC1 10=20;20,21=21",
"CCC[NH:10]CC(=O)Nc1c(C)cccc1C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC[NH+:10](CC(=O)Nc1c(C)cccc1C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
